US05648272
hydrolysing the ethyl ester and acetyl groups of t-butyl O-acetyl-N-carboethoxymethyl-thyroxine with sodium hydroxide in methanol and obtaining t-butyl N-carboxymethyl-thyroxine in the same process; and

reactant | t-butyl O-acetyl-N-carboethoxymethyl-thyroxine | C(C)(C)(C)N([C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)OC(C)=O)CC(=O)OCC | C25H27I4NO7
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | t-butyl N-carboxymethyl-thyroxine | C(C)(C)(C)N([C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O)CC(=O)O | C21H21I4NO6
